US05852017
c) 6-Chloro-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione
35 g (0.124 mol) of 2-amino-4-chloro-N-(2-ethylbutyl)aniline were refluxed in 350 ml of diethyl oxalate for 2.5 h. After cooling, the precipitate was filtered off with suction and dried to yield 33 g (76%) of the product. Melting point 253°-255°C.

reactant | 2-amino-4-chloro-N-(2-ethylbutyl)aniline | 0.124 mol, 35 g | NC1=C(NCC(CC)CC)C=CC(=C1)Cl | C12H19ClN2
reactant | diethyl oxalate | 350 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 6-Chloro-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione | 33 g, 76% | ClC=1C=C2NC(C(N(C2=CC1)CC(CC)CC)=O)=O | C14H17ClN2O2
